*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN18NJ00
* Property : L = 18[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN18NJ00 port1 port2
C1 port1 port2 1.26e-13
L2 port1 1 1.92e-8
R2 1 port2 9.59e-2
R3 port1 port2 178
L4 port1 2 2.01e-7
R4 2 port2 38.0
L5 port1 3 1.36e-7
R5 3 port2 1.12e+3
.ENDS LQW15CN18NJ00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN33NJ00
* Property : L = 33[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN33NJ00 port1 port2
C1 port1 port2 4.67e-14
L2 port1 1 3.52e-8
R2 1 port2 2.46e-1
R3 port1 port2 309
L4 port1 2 3.70e-7
R4 2 port2 69.8
.ENDS LQW15CN33NJ00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN48NJ00
* Property : L = 48[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN48NJ00 port1 port2
C1 port1 port2 5.65e-14
L2 port1 1 5.09e-8
R2 1 port2 3.51e-1
R3 port1 port2 416
L4 port1 2 4.94e-7
R4 2 port2 124
.ENDS LQW15CN48NJ00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN70NJ00
* Property : L = 70[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN70NJ00 port1 port2
C1 port1 port2 6.20e-14
L2 port1 1 7.59e-8
R2 1 port2 4.03e-1
R3 port1 port2 643
L4 port1 2 7.83e-7
R4 2 port2 197
.ENDS LQW15CN70NJ00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CN96NJ00
* Property : L = 96[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CN96NJ00 port1 port2
C1 port1 port2 5.68e-14
L2 port1 1 1.05e-7
R2 1 port2 5.47e-1
R3 port1 port2 825
L4 port1 2 1.02e-6
R4 2 port2 257
.ENDS LQW15CN96NJ00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR13J00
* Property : L = 130[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR13J00 port1 port2
C1 port1 port2 5.21e-14
L2 port1 1 1.40e-7
R2 1 port2 1.90e-1
R3 port1 port2 991
L4 port1 2 9.33e-7
R4 2 port2 166
.ENDS LQW15CNR13J00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR16J00
* Property : L = 160[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR16J00 port1 port2
C1 port1 port2 5.15e-14
L2 port1 1 1.74e-7
R2 1 port2 7.48e-1
R3 port1 port2 1.28e+3
L4 port1 2 1.89e-6
R4 2 port2 419
.ENDS LQW15CNR16J00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW15CNR20J00
* Property : L = 200[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW15CNR20J00 port1 port2
C1 port1 port2 4.57e-14
L2 port1 1 2.19e-7
R2 1 port2 1.14
R3 port1 port2 1.78e+3
L4 port1 2 2.13e-6
R4 2 port2 668
.ENDS LQW15CNR20J00
*----------------------------------------------------------------------
